US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid was condensed with 2,6-dimethylaniline to yield 2-[(2,6-dimethylphenyl] amino] phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
product | 2-[(2,6-dimethylphenyl] amino] phenylacetic acid | CC1=C(C(=CC=C1)C)NC1=C(C=CC=C1)CC(=O)O | C16H17NO2
